US06177452B1
Triethylamine(505 mg) was added dropwise to a N,N-dimethylformamide solution of 4-(4-chlorophenyl)-2-(2-methyl-1-imidazolyl)-5-oxazolepropionic acid(1.50 g) and N,O-dimethylhydroxyamine hydrochloride(490 mg) at 0° C. 1-Hydroxybenzotriazole hydrate(HOBt, 760 mg) and 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride(WSC, 950 mg) were added thereto. The reaction mixture was stirred for 20 hours at room temperature. Water was poured into the reaction mixture. Saturated sodium bicarbonate solution was added to make the mixture alkaline. The resulting mixture was extracted with ethyl acetate. The ethyl acetate layer was washed with water, and dried(MgSO4). The solvent was evaporated, and the precipitated crystals were collected by filtration to give N-methoxy-N-methyl-4-(4-chlorophenyl)-2-(2-methyl-1-imidazolyl)-5-oxazolepropionamide(1.54 g, 91%). This was recrystallized from acetone-isopropyl ether to give colorless prisms. mp 116-117° C.

reactant | 4-(4-chlorophenyl)-2-(2-methyl-1-imidazolyl)-5-oxazolepropionic acid | 1.50 g | ClC1=CC=C(C=C1)C=1N=C(OC1CCC(=O)O)N1C(=NC=C1)C | C16H14ClN3O3
reactant | N,O-dimethylhydroxyamine hydrochloride | 490 mg | Cl.CNOC
reactant | 1-Hydroxybenzotriazole hydrate | 760 mg | O.ON1N=NC2=C1C=CC=C2
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 950 mg | Cl.C(C)N=C=NCCCN(C)C
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | Water | O | H2O
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
solvent | Triethylamine | 505 mg | C(C)N(CC)CC | C6H15N
product | N-methoxy-N-methyl-4-(4-chlorophenyl)-2-(2-methyl-1-imidazolyl)-5-oxazolepropionamide | 1.54 g, 91% | CON(C(CCC1=C(N=C(O1)N1C(=NC=C1)C)C1=CC=C(C=C1)Cl)=O)C | C18H19ClN4O3
